Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[H:5]>>[H:1][C:2]([H:3])[H:4].[H:5],4.743194636559999
[H:12].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.27438099637
[H:1][C:2][C:3](=[O:4])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.67709739744
[H:1][C:2][H:3].[O:4]=[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.85569142056
[H:1][O:2][C:3]=[C:4]=[C:5]1[O:6][C:7]1([H:8])[H:9]>>[H:1][O:2][C:3][C:4]#[C:5][C:7]([O:6])([H:8])[H:9],1.56712666604
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-0.43162811253
[O:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3]([H:4])=[C:5](/[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-0.51370745154
[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],1.0922595869
[C:2]#[C:3][C:4]#[C:5][C:6][O:7][H:8].[H:1]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6][O:7][H:8],-4.44056801089
[C:7][C:8]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8][C:9]([H:10])([H:11])[H:12],-5.84799235369
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]([C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:3][H:4],2.92863584449
[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-0.644561580721
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:15],4.61844065774
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-4.5239345461100005
[H:1]/[C:6]([C:3]([C:2]=[C:10]([H:9])[H:11])([H:4])[H:5])=[C:7](/[H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],1.4176803109
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.32999362801
[H:1][C:2].[O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-4.11623438112
[H:1][O:2][C:3][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.7505279695
[H:1][C:2]1=[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],0.91294068543
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],0.854275764146
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:10]([H:11])([H:12])[H:13].[O:8][H:9],6.27998122053
[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],-5.208406975330001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-1.65301887099
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2]([O:3])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.15515732088
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],4.97050863851
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][O:8][H:9]>>[C:4]([H:5])[O:6][C:7][O:8][H:9].[H:1][C:2]#[C:3],6.2335552938
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2](#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1],2.84745434441
[C:1].[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.02353170407
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],4.67499357042
